US06339096B1
N-benzyloxycarbonyl-4-[4-(dimethylaminomethyl)phenylsulphinyl]piperidine-hydrochloride
from 4-[4-(dimethylaminomethyl)phenylthio]-N-phenoxycarbonylpiperidine-hydrochloride and sodium metaperiodate; colourless powder; Rf value of the free base: 0.4 (aluminium oxide, ethyl acetate/petroleum ether=1:1, v:v).

reactant | 4-[4-(dimethylaminomethyl)phenylthio]-N-phenoxycarbonylpiperidine-hydrochloride | Cl.CN(C)CC1=CC=C(C=C1)SC1CCN(CC1)C(=O)OC1=CC=CC=C1
reactant | sodium metaperiodate | I(=O)(=O)(=O)[O-].[Na+]
reactant | aluminium oxide | [O-2].[Al+3].[O-2].[O-2].[Al+3]
product | N-benzyloxycarbonyl-4-[4-(dimethylaminomethyl)phenylsulphinyl]piperidine-hydrochloride | Cl.C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)S(=O)C1=CC=C(C=C1)CN(C)C | InChI=1S/C22H28N2O3S.ClH/c1-23(2)16-18-8-10-20(11-9-18)28(26)21-12-14-24(15-13-21)22(25)27-17-19-6-4-3-5-7-19;/h3-11,21H,12-17H2,1-2H3;1H
